US08426602B2
2-Amino-6-([2-(4-chlorophenyl)-1,3-thiazol-4-yl]methylsulfanyl)-4-[1-(2-hydroxypropyl)-1H-pyrazol-3-yl]pyridine-3,5-dicarbonitrile
10 mg (0.022 mmol) of 2-amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(1H-pyrazol-3-yl)pyridine-3,5-dicarbonitrile were dissolved in 1 ml of 2-methyloxirane, and a spatula tip of cesium carbonate was added. The reaction mixture was stirred at room temperature overnight, concentrated, taken up in a little methanol and purified by preparative HPLC (acetonitrile/water: 10:90→95:5, 0.1% TFA added). This gave 10 mg (86% of theory) of the target compound.

reactant | 2-amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(1H-pyrazol-3-yl)pyridine-3,5-dicarbonitrile | 0.022 mmol, 10 mg | NC1=NC(=C(C(=C1C#N)C1=NNC=C1)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C20H12ClN7S2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-methyloxirane | 1 ml | CC1OC1 | C3H6O
product | 2-Amino-6-([2-(4-chlorophenyl)-1,3-thiazol-4-yl]methylsulfanyl)-4-[1-(2-hydroxypropyl)-1H-pyrazol-3-yl]pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)C1=NN(C=C1)CC(C)O)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C23H18ClN7OS2
